US06737383B1
Step B: Preparation of N-(4-Fluorophenyl)-N-(1-methylethyl)-4-(2-methylpropyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide
A 50 mL round bottom flask equipped with a thermometer, a stirrer, an addition funnel, and a nitrogen inlet was charged with N-(4-fluorophenyl)-N-(1-methylethyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide (5.5 g, 0.019 m), 2-methyl-1-propanol (3 g, 0.04 mol), triphenylphosphine (6.3 g, 0.021 mol) and tetrahydrofuran (60 mL). The reaction solution was cooled to 15° C. and diethyl azodicarboxylate (4.2 g, 0.024 mol) in tetrahydrofuran (10 mL) was added dropwise over a period of 10 min. The reaction mixture was stirred at room temperature for 18 h. The solvent was removed under reduced pressure and the residue was flash chromatographed (silica gel, 9:1 hexane-ethyl acetate) to provide the title compound as a white solid (5.6 g, 88%). The solid has a melting range of 80-81° C., and was identical to the material prepared in Example 8, Step B.

reactant | N-(4-fluorophenyl)-N-(1-methylethyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide | 5.5 g | FC1=CC=C(C=C1)N(C(=O)N1OC(NC1=O)=O)C(C)C | C12H12FN3O4
reactant | 2-methyl-1-propanol | 0.04 mol, 3 g | CC(CO)C | C4H10O
reactant | triphenylphosphine | 0.021 mol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.024 mol, 4.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | N-(4-Fluorophenyl)-N-(1-methylethyl)-4-(2-methylpropyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide | 5.6 g, 88% | FC1=CC=C(C=C1)N(C(=O)N1OC(N(C1=O)CC(C)C)=O)C(C)C | C16H20FN3O4
